US07557213B2
Step 1: Synthesis of 3-(benzo[1,3]dioxol-5-ylamino)-2-(3,4-dimethyl-benzoyl)-acrylic acid methyl ester
Experimental conditions analogous to those described for Step 1 of Example 1, from crude 2-(3,4-dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester (4.03 g, 16.3 mmol) and benzo[1,3]dioxol-5-ylamine (2.45 g, 17.9 mmol). Yield: 3.14 g of a yellow crystalline solid: LC-MSD, m/z for C20H20NO5 [M+H]+=354.4; HPLC retention time: 2.8 min.

reactant | 2-(3,4-dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester | 16.3 mmol, 4.03 g | COC(C(=COC)C(C1=CC(=C(C=C1)C)C)=O)=O | C14H16O4
reactant | benzo[1,3]dioxol-5-ylamine | 17.9 mmol, 2.45 g | O1COC2=C1C=CC(=C2)N | C7H7NO2
product | 3-(benzo[1,3]dioxol-5-ylamino)-2-(3,4-dimethyl-benzoyl)-acrylic acid methyl ester | COC(C(=CNC1=CC2=C(OCO2)C=C1)C(C1=CC(=C(C=C1)C)C)=O)=O | C20H19NO5
